US05407902
Synthesis of N-methyl-2-{2-(3-chlorobenzyloxyiminomethyl)-phenyl}-2-methoxyiminoacetamide (compound No. 3 in Table 1):
To a solution of 1 g (4.26 mmol) of N-methyl-2-{2-(hydroxyiminomethyl)phenyl}-2-methoxyiminoacetamide and 0.62 g (4.5 mmol) of potassium carbonate in 10 ml of DMF, was added 0.69 g (4.29 mmol) of 3-chlorobenzyl chloride and the mixture was stirred under heating at 110° C. for 3 hours. After cooling, the reaction mixture was poured into water, extracted with ethyl acetate, successively washed with water and a saturated sodium chloride solution and dried over anhydrous sodium sulfate. After concentration in vacuo, the residue was chromatographed over SiO2 to give 0.9 g of the title compound (yield: 58.8%).

reactant | N-methyl-2-{2-(hydroxyiminomethyl)phenyl}-2-methoxyiminoacetamide | 4.26 mmol, 1 g | CNC(C(=NOC)C1=C(C=CC=C1)C=NO)=O | C11H13N3O3
reactant | potassium carbonate | 4.5 mmol, 0.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chlorobenzyl chloride | 4.29 mmol, 0.69 g | ClC=1C=C(CCl)C=CC1 | C7H6Cl2
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-methyl-2-{2-(3-chlorobenzyloxyiminomethyl)-phenyl}-2-methoxyiminoacetamide | 0.9 g, yield: 58.8% | CNC(C(=NOC)C1=C(C=CC=C1)C=NOCC1=CC(=CC=C1)Cl)=O | C18H18ClN3O3
